US07745438B2
2-(R)-Amino-3-(R)-benzyloxy-5-(3-benzyloxyphenyl)-4-(S)-dibenzylaminopentan-1-ol
Dissolve 4-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(S)-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (16.01 g, 22.0 mmol) in 4 M hydrogen chloride in 1,4-dioxane (130 mL) and stir for 30 minutes. Add water (65 mL) and stir for 18 hours. Slowly add sodium bicarbonate (50 g) and water (˜50 mL). Extract with ethyl acetate, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter and concentrate to give the crude desired compound.

reactant | 4-(R)-[1-(S)-benzyloxy-3-(3-benzyloxyphenyl)-2-(S)-dibenzylaminopropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 22.0 mmol, 16.01 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)(C)C | C47H54N2O5
reactant | water | 65 mL | O | H2O
reactant | sodium bicarbonate | 50 g | C([O-])(O)=O.[Na+]
reactant | water | ˜50 mL | O | H2O
solvent | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | 2-(R)-Amino-3-(R)-benzyloxy-5-(3-benzyloxyphenyl)-4-(S)-dibenzylaminopentan-1-ol | N[C@H](CO)[C@H]([C@H](CC1=CC(=CC=C1)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C39H42N2O3
